*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-01[uF]/16[V]
* Murata P/N :GCM155R71C224KE02
* Property : C = 2.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71C224KE02 Port1 Port2
C01 Port1 N01 1.43e-07
R01 Port1 N01 2.27e+08
L02 N01 N02 1.27e-10
R03 N02 N03 1.70e-02
C04 N03 N04 4.22e-06
R04 N03 N04 9.42e+02
C05 N04 N05 7.46e-06
R05 N04 N05 9.00e+01
C06 N05 N06 5.82e-06
R06 N05 N06 2.26e+01
C07 N06 N07 5.46e-06
R07 N06 N07 3.50e+00
C08 N07 N08 3.78e-06
R08 N07 N08 8.40e-01
C09 N08 N09 2.65e-06
R09 N08 N09 1.05e-01
C10 N09 N10 2.24e-06
R10 N09 N10 1.71e-02
L11 N10 N11 2.36e-11
R11 N10 N11 1.70e-01
L12 N11 N12 1.12e-10
R12 N11 N12 6.50e-02
C13 N12 N13 9.56e-07
L13 N12 N13 1.19e-11
R13 N12 N13 8.34e-03
C14 N13 N14 3.41e-07
L14 N13 N14 1.84e-11
R14 N13 N14 1.55e-02
C15 N14 Port2 2.25e-12
L15 N14 Port2 1.00e-10
R15 N14 Port2 2.80e+01
.ENDS GCM155R71C224KE02
